US06720320B2
5-(7-methoxybenzo(b)furan-2-yl)-3-methylisoxazole
Thionyl chloride (10 ml) was added dropwise to methanol (100 ml) with stirring under ice-cooling. 7-Methoxybenzo(b)furan-2-carboxylic acid (10 g) was successively added, and the mixture was refluxed under heating for 1 hr. After cooling, the solvent was evaporated under reduced pressure and the precipitated yellow crystals were collected by filtration to give methyl 7-methoxybenzo(b)furan-2-carboxylate (11.2 g). This was used in the next reaction without purification. Acetone oxime (4.8 g) was dissolved in tetrahydrofuran (100 ml), and butyllithium (1.6M hexane solution) (80 ml) was added dropwise to this solution at −5° C. with stirring. Thereafter, the mixture was stirred under ice-cooling for 1 hr, and a solution (50 ml) of methyl 7-methoxybenzo(b)furan-2-carboxylate (11.2 g) in tetrahydrofuran was added. The mixture was stirred at room temperature for 20 hr. A solution of sulfuric acid (28 g) dissolved in tetrahydrofuran (120 ml)—water (30 ml) was prepared, into which the reaction mixture was poured. The mixture was refluxed under heating for 2 hr. After cooling, the reaction mixture was poured into ice water and extracted with chloroform. The organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound (2.1 g).

reactant | Acetone oxime | 4.8 g | CC(C)=NO | C3H7NO
reactant | butyllithium | 1.6M, 80 ml | C(CCC)[Li]
reactant | methyl 7-methoxybenzo(b)furan-2-carboxylate | 50 ml, 11.2 g | COC1=CC=CC2=C1OC(=C2)C(=O)OC | C11H10O4
reactant | sulfuric acid | 28 g | S(O)(O)(=O)=O | H2O4S
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
solvent | water | 30 ml | O | H2O
product | 5-(7-methoxybenzo(b)furan-2-yl)-3-methylisoxazole | 2.1 g | COC1=CC=CC2=C1OC(=C2)C2=CC(=NO2)C | C13H11NO3
